US04255152
2-(o-hydroxymethylphenoxy)-1-phenylethanol
2-phenoxy-1-phenylethanol or 2-phenoxy-2-phenyl ethanol

reactant | 2-phenoxy-1-phenylethanol | O(C1=CC=CC=C1)CC(O)C1=CC=CC=C1 | C14H14O2
reactant | 2-phenoxy-2-phenyl ethanol | O(C1=CC=CC=C1)C(CO)C1=CC=CC=C1 | C14H14O2
product | 2-(o-hydroxymethylphenoxy)-1-phenylethanol | OCC1=C(OCC(O)C2=CC=CC=C2)C=CC=C1 | C15H16O3
